US08278316B2
B. 2-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)-5-(4-(trifluoromethyl)phenyl)pyridazin-3(2H)-one
N1,N2-dimethylethane-1,2-diamine (10 μL, 0.09 mmol) was added to a mixture of 5-(4-(trifluoromethyl)phenyl)pyridazin-3(2H)-one Part A (15 mg, 0.06 mmol), 1-(4-bromo-2-methoxyphenoxy)-2-methylpropan-2-ol Part B of Procedure 1 (20.6 mg, 0.08 mmol), potassium phosphate tribasic (39.8 mg, 0.19 mmol), and copper (I) iodide (17.8 mg, 0.09 mmol) in DMF (0.8 mL). After stirring at 110° C. overnight, the reaction mixture was diluted with CH2Cl2, filtered, washed with sat NaHCO3, brine, dried (MgSO4), and concentrated. The crude product was purified using HPLC (Phen Luna Axia C18 5μ 10:90:0.1 to 90:10:0.1 MeOH—H2O-TFA) to afford the desired product 2-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)-5-(4-(trifluoromethyl)-phenyl)pyridazin-3(2H)-one L-1 (11.7 mg, 0.03 mmol, 41.0% yield) as a yellow solid. LC/MS 435 (M+H)+, tR 0.94 min (method 5). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.20 (1H, d, J=2.01 Hz), 7.73-7.87 (4H, m), 7.17-7.26 (3H, m), 7.02 (1H, d, J=8.28 Hz), 3.91 (3H, s), 3.89 (2H, s), 1.38 (6H, s)

reactant | N1,N2-dimethylethane-1,2-diamine | 0.09 mmol, 10 μL | CNCCNC | C4H12N2
reactant | 5-(4-(trifluoromethyl)phenyl)pyridazin-3(2H)-one | FC(C1=CC=C(C=C1)C1=CC(NN=C1)=O)(F)F | C11H7F3N2O
reactant | 1-(4-bromo-2-methoxyphenoxy)-2-methylpropan-2-ol | BrC1=CC(=C(OCC(C)(O)C)C=C1)OC | C11H15BrO3
reactant | potassium phosphate tribasic | 0.19 mmol, 39.8 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | DMF | 0.8 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | copper (I) iodide | 0.09 mmol, 17.8 mg | [Cu]I
product | 2-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)-5-(4-(trifluoromethyl)-phenyl)pyridazin-3(2H)-one | 0.03 mmol, 11.7 mg, 41.0% yield | OC(COC1=C(C=C(C=C1)N1N=CC(=CC1=O)C1=CC=C(C=C1)C(F)(F)F)OC)(C)C | C22H21F3N2O4
